US06743919B2
A mixture of [1-(4-chloro-benzyl)-1H-indol-3-yl]-[4-pyridin-2-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-methanol (10 mg, 18.4 mmol) and MnO2 (0.2 g, 2.3 mmol) in dichloromethane (5 mL) was stirred at room temperature for two hours. Flash silica gel chromatography (2:1 hexane/ethyl acetate) afforded the oxidized product [1-(4-chloro-benzyl)-1H-indol-3-yl]-[4-pyridin-2-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-methanone as a syrup (10 mg, 100%). 1H NMR (CDCl3) δ−0.02 (s, 9H), 0.99 (t, 2H, J=7), 3.68 (t, 2H, J=7), 5.40 (s, 2H), 5.99 (s, 2H), 7.15-7.40 (m, 9H), 7.75 (t, 1H, J=4), 7.85 (d, 1H, J=6), 8.00 (s, 1H), 8.60(d, 1H, J=6), 9.00 (s, 1H)ppm; ESMS calcd for (C30H31ClN4O2Si): 542.2; found: 543.2 (M+H)+.

reactant | [1-(4-chloro-benzyl)-1H-indol-3-yl]-[4-pyridin-2-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-methanol | 18.4 mmol, 10 mg | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(O)C=2N(C=C(N2)C2=NC=CC=C2)COCC[Si](C)(C)C)C=C1 | C30H33ClN4O2Si
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | MnO2 | 2.3 mmol, 0.2 g | O=[Mn]=O
product | [1-(4-chloro-benzyl)-1H-indol-3-yl]-[4-pyridin-2-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-methanone | 10 mg, 100% | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(=O)C=2N(C=C(N2)C2=NC=CC=C2)COCC[Si](C)(C)C)C=C1 | C30H31ClN4O2Si
